US04572805
In 200 ml of carbon tetrachloride, 19.1 g (0.100 mol) of 4-cyano-2,3, 5,6-tetrafluorophenol and 11.3 g (0.125 mol) of acrylic acid chloride were dissolved. To the resultant solution, 20 g of molecular sieve 3 Å in diameter was added. The mixture was stirred under reflux for 38 hours. The resultant reaction mixture was cooled off and filtered to separate the molecular sieve. The filtrate was dried with magnesium sulfate and evaporated to dryness with a rotary evaporator. Consequently, there was obtained 15.2 g of 4-cyano-2,3,5,6-tetrafluorophenyl acrylate (yield 62.0% based on 4-cyano-2,3,5,6-tetrafluorophenol, purity 96.4%) having a melting point below determined.

reactant | 4-cyano-2,3, 5,6-tetrafluorophenol | 0.100 mol, 19.1 g | C(#N)C1=C(C(=C(C(=C1F)F)O)F)F | C7HF4NO
reactant | acrylic acid chloride | 0.125 mol, 11.3 g | C(C=C)(=O)Cl | C3H3ClO
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-cyano-2,3,5,6-tetrafluorophenyl acrylate | 15.2 g, yield 62.0% | C(C=C)(=O)OC1=C(C(=C(C(=C1F)F)C#N)F)F | C10H3F4NO2
